**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C3M02800900J Spice Library 
****	Version 1.0 Date: 12-10-2017
****	Version 2.0 Date: 01-22-2018
****	Version 3.0 Date: 06-19-2018
***********************************************************
****	Revision record
****	Version 1	Initial Release
****	Version 2	This spice model is compatible to both Ltspice and Orcad Pspsice
****	Version 3	Update the thermal RC model
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2,S3,S4,S5,S6 = Power Source
***********************************************************

.subckt C3M0280090J d g s1 s2 s3 s4 s5 s6 Tj Tc 

xgmos	d3 d1 g1 s Tj Tc gmos_C3M0280090J


Rg1		g		ga		17.006m
RS1		s1		s1a		18.71m
RS2		s2		s2a		0.474m
RS3		s3		s3a		0.474m
RS4		s4		s4a		0.474m
RS5		s5		s5a		0.474m
RS6		s6		s6a		0.474m
Rd		d		da		0.01166m

Lg1		ga		g3		6.457n
Ls1		s1a		s		6.9047n
Ls2		s2a		s_c		2.22021n
Ls3		s3a		s_c		2.22021n
Ls4		s4a		s_c		2.22021n
Ls5		s5a		s_c		2.22021n
Ls6		s6a		s_c		2.22021n
Ld 		da		d3      	1.495n

RPg   ga		g3		595
RP1   s1a		s		30
RP2   s2a		s_c		30
RP3   s3a		s_c		30
RP4   s4a		s_c		30
RP5   s5a		s_c		30
RP6   s6a		s_c		30
RPd   da		d3		1

R_g 		g1	g2	26
R_S		S_C	S_d	16.773m
L_s		S_d	S	4.035n
R_PLS		S_d	s	30


G1		d2	d1      Value {V(d1,s)}
R_A		d2	d1	1E6
vgate_s		g3	g2	0
vdrain_s	d3	d2	0
Gheat		0	Tj	value {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
xCGD		d2	g1	cgdmos_C3M0280090J 
CGS		g1	s	145.5p
D1		s	d2	bodydiode_C3M0280090J

R0 N1 Tj 395m
R1 N2 N1 1.05
R2 N3 N2 497m
R3 Tc N3 526m
C0 Tj 0 347u
C1 N1 0 749u
C2 N2 0 4.39m
C3 N3 0 61.9m

.ends C3M0280090J

*****************************************

.subckt gmos_C3M0280090J d3 d1 g1 s Tj Tc

e1		NET1	0	Value {-0.1717*v(gk,s)+3.5755}
R_a		NET1	0 	1E6

e3		NET3	0	Value {17.164u*(V(Tj)**2)-6.997m*V(Tj)+2.203}
R_C		NET3	0 	1E6

e2		NET2	0	Value {-5m*V(gk,s)+165m}
R_B		NET2	0 	1E6

e4		NET4	0	Value {-2.854u*(V(Tj)**2)-0.461m*V(Tj)+0.1633}
R_d		NET4	0 	1E6

e10		NET10   0	Value {964.29u*(V(gk,s)**2)-12.514m*V(gk,s)+71.664m}
R_K		NET10	0	1E6

e5		NET5	0	value {
+				if(V(gk,s)>13,
+					-767.07n*(V(Tj)**2)-41.762u*v(Tj)+70.023m   
+					,
+					0
+					)
+					}
R_e		NET5	0 	1E6

e6		NET6	0	value {
+				if(V(gk,s)>11 & V(gk,s)<=13,
+					-679.02n*(V(Tj)**2)-20.37u*v(Tj)+61.934m
+					,
+					0
+					)
+					}
R_f		NET6	0 	1E6

e7		NET7	0	value {
+				if(V(gk,s)>9 & V(gk,s)<=11,
+					-554.39n*(V(Tj)**2)+14.618u*v(Tj)+52.98m
+					,
+					0
+					)
+					}
R_g		NET7	0 	1E6

e8		NET8	0	value {
+				if(V(gk,s)>7 & V(gk,s)<=9,
+					-484.87n*(V(Tj)**2)+70.454u*v(Tj)+43.54m   
+					,
+					0
+					)
+					}
R_h		NET8	0 	1E6

e9		NET9	0	value {
+				if(V(gk,s)>v(NET3) & V(gk,s)<=7,
+					-428.05n*(V(Tj)**2)+130.91u*v(Tj)+36.99m    
+					,
+					0
+					)
+					}
R_j		NET9	0 	1E6


.param p8  = 0.0011
.param p11 = -8
.param p12 = 19


R100 gk s	1E6
E100 gk s 	value {limit(V(g1,s),p11,p12)}


********************************
G1 d1 s value {
+	if(V(s,d3)<0,
+		0
+		,
+		if (V(gk,s)<v(NET3) ,
+		-((0.035)*(v(gk,s)-V(NET3)))*(-(1+p8*v(s,d3))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(s,d3)))))**2))
+		,
+		-(((v(NET5)+v(NET6)+v(NET7)+v(NET8)+v(NET9))*(v(gk,s)-V(NET3)))+v(NET4))*(1+p8*v(s,d3))*
+		(((log(1+exp(v(gk,s)-V(NET3))))**2)-((log(1+exp(v(gk,s)-V(NET3)-
+		(V(NET2)*v(s,d3)*((1+exp(-v(NET10)*v(s,d3)))**v(NET1))))))**2))
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<0,
+		0
+		,
+		if (V(gk,s)<v(NET3) ,
+		((0.035)*(v(gk,s)-V(NET3)))*(-(1+p8*v(d3,s))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(d3,s)))))**2))
+		,
+		(((v(NET5)+v(NET6)+v(NET7)+v(NET8)+v(NET9))*(v(gk,s)-V(NET3))))*(1+p8*v(d3,s))*
+		(((log(1+exp(v(gk,s)-V(NET3))))**2)-((log(1+exp(v(gk,s)-V(NET3)-
+		(V(NET2)*v(d3,s)*((1+exp(-v(NET10)*v(d3,s)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_C3M0280090J

****************************************

.subckt cgdmos_C3M0280090J d2 g1
.param k1=62p	
.param k2=0.35		
.param ka=40	
.param kb=0.3	
.param kc=6.5277	
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d2,g1),0,454))*(1+ka*(1+TANH(kb*V(d2,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d2))
+			}
R_CGD d1 d2 1e-4
.ends cgdmos_C3M0280090J


****************************************
.model bodydiode_C3M0280090J d(is=10.889n cjo=318p bv=1160 m=0.63 EG=4.75 vj=4.3 n=7.65 
+	rs=0.2  trs1=-0.0025  trs2=7u Tnom=25
+	tt=0n ibv=500u Xti=0.13 level=1)




