
**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C3M0015065K Spice Library
****	Version 1.0 Date: 02-17-2020
****
***********************************************************
****	Revision record
****	Revision 1	Initial Release, Datasheet Rev A, 02-2020
****
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2 = Power Source
***********************************************************

.subckt C3M0015065K d g s1 s2 Tj Tc
.param p11 = -8
.param p12 = 19
.param Rgint = 1.5

R1022	Tjc	0	1E6
E1022	Tjc	0 	value {limit(v(Tj),-55,260)}

R100	gk	s	1E6
E100	gk	s 	value {limit(v(g1,s),-8,19)}

e33		NET3	0	Value {-108.1n*V(Tjc)**3+36.33u*V(Tjc)**2-5.836m*V(Tjc)+2.3832}
R_cc		NET3	0 	1E6

xgmos	d3 d1 gk s Tjc NET3 gmos_C3M0015065K

RS1		s1	sb	8.22m
Ls1 		sb	sv	5.0744n

RS2		s2	sa	1.5824m
Ls2 		sa	sv	1.735n

Lv		sv	s	1.2n

R_g 		g1	g2	{Rgint}
RG		g	ga	12.373m
Lg 		ga	g2	7.446n


Rd		d	da	87.416u
Ld 		da	d3      4.3659n
R_Ld		da	d3	5

Ed		Id	0	value {I(Vdrain_s)}
Rdd		Id	0	1E6

vdrain_s	d3	d1	0
Gheat		0	Tj	value = {abs((V(d1,s)*v(Id)))+abs((V(g1,g2)**2/Rgint))}

xCGD		d3	g1	cgdmos_C3M0015065K
CGS		g1	s	4980p

e15		dd1	d1	value {
+				if (V(gk,s)>V(NET3),
+					Limit(((6.62m*V(Tjc)**2+0.2434*V(Tjc)-255.177)*(V(gk,s)**2)+
+					(-0.1567*V(Tjc)**2-6.1168*V(Tj)+6380.75)*v(gk,s)+
+					(0.6869*V(Tjc)**2+30.015*V(Tjc)-27999))/1000,-3.2,15)
+					,
+					0
+					)
+					}

D1		s	dd1	bodydiode_C3M0015065K
xCDS		d3	s	cds_C3M0015065K
CDS1		d3	s	1p
R_DS1		d1	s	0.5G

R0 N1 Tj 40.544m
R1 N2 N1 111.522m
R2 N3 N2 73m
R3 Tc N3 124.839m

C0 Tj 0 2.122m
C1 N1 0 10.544m
C2 N2 0 31.037m
C3 N3 0 127.325m

.ends C3M0015065K
*****************************************

.subckt gmos_C3M0015065K d3 d1 gk s Tjc NET3


e1		NET1	0	Value {
+					if (V(Tjc)>=24,
+					Limit(((83.149u*V(Tjc)**2-12.624m*V(Tjc)-1.2054)*(V(gk,s)**3)+
+					(-3.8796m*V(Tjc)**2+0.55467*V(Tjc)+62)*(V(gk,s)**2)+
+					(59.517m*V(Tjc)**2-8.1866*V(Tjc)-940.96)*v(gk,s)+
+					(-0.28792*V(Tjc)**2+39.133*V(Tjc)+4861.6)),10,7200)/1000
+					,
+					Limit(((-279.22u*V(Tjc)**2-18.059m*V(Tjc)-0.84301)*(V(gk,s)**3)+
+					(10.41m*V(Tjc)**2+0.76901*V(Tjc)+47.711)*(V(gk,s)**2)+
+					(-0.14333*V(Tjc)**2-11.229*V(Tjc)-738.11)*v(gk,s)+
+					(0.54228*V(Tjc)**2+51.586*V(Tjc)+4031.4)),10,7200)/1000
+					)
+					}
R_a		NET1	0 	1E6

*e9	P9	0	value {
e9	P9	0	value {Limit(((752.7u*V(Tjc)**2+15.65m*V(Tjc)-13.886)*(V(gk,s)**2)+
+					(-19.84m*V(Tjc)**2+0.5579*V(Tjc)+191.68)*v(gk,s)+
+					(0.1334*V(Tjc)**2-13.942*V(Tjc)+495.6))/1000,0.001,5)}
R_s	P9	0 	1E6

e2		NET2	0	Value {15.35m*V(gk,s)+371.85m}
R_B		NET2	0 	1E6

*e4		NET4	0	Value {
e4		NET4	0	Value {Limit(((68.57u*V(Tjc)**2-23.1m*V(Tjc)+12.541)*(V(gk,s)**2)+
+					(-1.714m*V(Tjc)**2+0.5774*V(Tjc)-313.53)*v(gk,s)+
+					(10.29m*V(Tjc)**2-3.465*V(Tjc)+1881.2))/1000,0,5)}
R_d		NET4	0 	1E6

e6		NET6	0	value {0.22}
R_6e		NET6	0 	1E6


e5		NET5	0	value {
+					if (V(Tjc)>=24,
+				Limit(((-130.21u*V(Tjc)-22.687m)*V(gk,s)**5+
+				(1.0567m*V(Tjc)+2.0693)*V(gk,s)**4+
+				(0.15333*V(Tjc)-60.353)*V(gk,s)**3+
+				(-3.4976*V(Tjc)+676.94)*V(gk,s)**2+
+				(21.246*V(Tjc)-2366.1)*V(gk,s)+
+				(-13.228*V(Tjc)+2916.2))
*+				/10100,0.001,1)
+				/(-1.3333*v(Tjc)+10.333k),0.001,1)
+					,
+				Limit(((-125.98u*V(Tjc)**2-3.8005m*V(Tjc)+0.84264)*V(gk,s)**4+
+				(6.6263m*V(Tjc)**2+0.22416*V(Tjc)-37.006)*V(gk,s)**3+
+				(-0.12772*V(Tjc)**2-4.7065*V(Tjc)+512.09)*V(gk,s)**2+
+				(1.0273*V(Tjc)**2+38.996*V(Tjc)-2293.9)*v(gk,s)+
+				(-2.33*V(Tjc)**2-79.85*V(Tjc)+4335.8))
*+				/(10000),0.001,1)
+				/(-0.17308*v(Tjc)**2-6.4423*v(Tjc)+10369.231),0.001,1)
+					)
+					}
R_e		NET5	0 	1E6


e10		NET10	0	Value {
+					if (V(Tjc)>=24,
+					Limit(((-31.333u*V(Tjc)**2-4.4854m*V(Tjc)+2.4057)*(V(gk,s)**3)+
+					(704.47u*V(Tjc)**2+0.26011*V(Tjc)-95.323)*(V(gk,s)**2)+
+					(4.0738m*V(Tjc)**2-5.1389*V(Tjc)+1147.9)*v(gk,s)+
+					(-97.562m*V(Tjc)**2+31.839*V(Tjc)-4039.4)),0,500)/1000
+					,
+					Limit(((4.0415m*V(Tjc)**2+56.607m*V(Tjc)-1.6671)*(V(gk,s)**3)+
+					(-0.15571*V(Tjc)**2-2.0862*V(Tjc)+61.096)*(V(gk,s)**2)+
+					(1.8525*V(Tjc)**2+22.588*V(Tjc)-700.5)*v(gk,s)+
+					(-6.7466*V(Tjc)**2-67.897*V(Tjc)+2609.6)),0,500)/1000
+					)
+					}
R_K		NET10	0	1E6

e_p8	P8	0	Value {
+					if (V(Tjc)>=24,
+					Limit((54.667u*V(Tjc)+8.6333m),0.0005,0.08)
+					,
+					Limit((-10.256u*V(Tjc)**2-307.69u*V(Tjc)+24.103m),0.0005,0.08)
+					)
+					}
R_R	P8	0 	1E6

R_T	NET3	0 	1E6
R_V	gk	s 	1E6

********************************
G1 d1 s value {
+	if(V(s,d3)<=0,
+		0
+		,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		-((((v(NET5)+v(NET4))*(v(gk,s)-V(NET3))))*(1+v(P9)*v(s,d3))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
*+		-((((v(NET5)+v(NET4))*(v(gk,s)-V(NET3))))*(1+v(P8)*v(s,d3))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(s,d3)*((1+exp(-v(NET10)*v(s,d3)))**v(NET1))))))**2)))
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<=0,
+		0
+		,
+		if (V(gk,s)<V(NET3),
+		0
+		,
+		(((v(NET5))*(v(gk,s)-V(NET3))))*(1+v(P8)*v(d3,s))*(((log(1+exp(v(gk,s)-V(NET3))))**2)-
+		((log(1+exp(v(gk,s)-V(NET3)-(V(NET2)*v(d3,s)*((1+exp(-v(NET10)*v(d3,s)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_C3M0015065K

****************************************

.subckt cgdmos_C3M0015065K d3 g1
.param k1=2530p
.param k2=0.44
.param ka=99
.param kb=0.35
.param kc=3.9
G11 g1 d1 value {
+		k1*(
+		(1+(limit(v(d3,g1),0,290))*(1+ka*(1+TANH(kb*V(d3,g1)-kc))/2))**(-k2)
+		)*ddt(v(g1,d3))
+			}
R_CGD d1 d3 1E-4
.ends cgdmos_C3M0015065K


.subckt cds_C3M0015065K d3 s

.param a =	4494
.param b =	2.9775
.param c =	112.12
.param d =	0.75206

G12 d1 s value {
+	if(V(d3,s)>0,
+		(((a*b+c*limit(v(d3,s),0,350)**d)/(b+limit(v(d3,s),0,340)**d))*1p)*ddt(v(d3,s))
+		,
+		0
+			)
+			}

R_CDS d1 d3 1E-4



.ends cds_C3M0015065K

****************************************
.model bodydiode_C3M0015065K d(is=850n bv=929 EG=4.3 n=9.5
+	rs=0.010  trs1=-0.0014  trs2=0.0000035 Tnom=25
+	tt=3.5n ibv=500u Xti=30 level=1)
